US04219559
A mixture of 1.6 parts of 1-(1-chloroethyl)-4-fluorobenzene, 3.2 parts of N-[1-(2-phenylethyl)-4-piperidinyl]-1H-benzimidazol-2-amine, 1 part of sodium carbonate, 0.1 parts of potassium iodide and 120 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is cooled, poured onto water and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried, yielding 1.8 parts (40.7%) of 1-[1-(4-fluorophenyl)ethyl]-N-[1-(2-phenylethyl)-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 161.7° C.

reactant | 1-(1-chloroethyl)-4-fluorobenzene | ClC(C)C1=CC=C(C=C1)F | C8H8ClF
reactant | N-[1-(2-phenylethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | C1(=CC=CC=C1)CCN1CCC(CC1)NC1=NC2=C(N1)C=CC=C2 | C20H24N4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-[1-(4-fluorophenyl)ethyl]-N-[1-(2-phenylethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | 40.7% | FC1=CC=C(C=C1)C(C)N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2=CC=CC=C2 | C28H31FN4
